US09302989B2
N-[4-(1-methyl-1H-pyrazol-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 280, substituting 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole for 1H-pyrazol-3-ylboronic acid and N-(4-bromophenyl)isoindoline-2-carboxamide for 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ ppm 3.84 (s, 3H), 4.77 (s, 4H), 7.24-7.40 (m, 4H), 7.40-7.49 (m, 2H), 7.50-7.60 (m, 2H), 7.77 (s, 1H), 8.02 (s, 1H), 8.33 (s, 1H); MS (ESI(+)) m/e 319 (M+H)+.

reactant | 1H-pyrazol-3-ylboronic acid | N1N=C(C=C1)B(O)O | C3H5BN2O2
reactant | N-(4-bromophenyl)isoindoline-2-carboxamide | BrC1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C15H13BrN2O
reactant | 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | BrC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H20BrN3O2
product | N-[4-(1-methyl-1H-pyrazol-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide | CN1N=CC(=C1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C19H18N4O
